US07396844B1
Synthesis of benzyl (3R)-4-(5-cyano-2-iodophenoxy)-3-(4-cyanobenzoylamino)butanoate
4.73 g (10 mmol) of (1R)-1-benzyloxycarbonylmethyl-2-(5-cyano-2-iodophenoxy)ethylammonium chloride, 2.9 g (20 mmol) of 4-cyanobenzoic acid, 3.0 g (22 mmol) of 1-hydroxybenzotriazole and 6.1 ml (44 mmol) of triethylamine were dissolved in 50 ml of dichloromethane. 4.2 g (22 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride was added to the solution under cooling with ice, and they were stirred for 10 minutes and then at room temperature for one hour. Water is added to the reaction mixture to terminate the reaction. The mixture was treated with dichloromethane as the extractant in an ordinary manner to obtain the crude product, which was purified by the silica gel column chromatography (volume ratio of hexane:ethyl acetate=3:1) to obtain the title compound.

reactant | (1R)-1-benzyloxycarbonylmethyl-2-(5-cyano-2-iodophenoxy)ethylammonium chloride | 10 mmol, 4.73 g | [Cl-].C(C1=CC=CC=C1)OC(=O)C[C@H](COC1=C(C=CC(=C1)C#N)I)[NH3+]
reactant | 4-cyanobenzoic acid | 20 mmol, 2.9 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | 1-hydroxybenzotriazole | 22 mmol, 3.0 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 44 mmol, 6.1 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 22 mmol, 4.2 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | benzyl (3R)-4-(5-cyano-2-iodophenoxy)-3-(4-cyanobenzoylamino)butanoate | C(#N)C=1C=CC(=C(OC[C@@H](CC(=O)OCC2=CC=CC=C2)NC(C2=CC=C(C=C2)C#N)=O)C1)I | C26H20IN3O4
